US05912258
Synthesis of 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid
Ethyl 4-hydroxybenzoate (50.0 g), methallyl chloride (32.6 g), and potassium carbonate (45.6 g) were refluxed in acetone (150 ml) with stirring for 40 hours. The reaction mixture was filtered, and then the filtrate was concentrated under a vacuum. The residue, with toluene (150 ml) added thereto, was washed with 2% sodium hydroxide aqueous solution and water successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum to yield an oil. The oil was dissolved in N,N-dimethylaniline (80 ml) and the solution was refluxed with stirring for approximate 10 hours. The reaction mixture was acidified with concentrated hydrochloric acid while being cooled with ice, and then extracted with toluene. The extract was further extracted with 10% sodium hydroxide aqueous solution. The resulting water layer was acidified with concentrated hydrochloric acid , and then extracted with toluene. The extract was washed with water, dried over sodium sulfate anhydride, and then concentrated under a vacuum, thereby yielding a solid. The solid was dissolved in ethanol (580 ml) and the solution, with 10% palladium-charcoal (6.0 g) added thereto, was subjected to catalytic reduction in a hydrogen gas atmosphere. After the reaction mixture was filtered, the filtrate was concentrated under a vacuum, thereby yielding a solid. The solid was dissolved in acetone (350 ml) and the solution, with potassium carbonate (73.8 g) and 4-fluorobenzyl bromide (60.6 g) added thereto, was refluxed with stirring for 4 hours. The reaction mixture, with water added thereto, was extracted with ethyl acetate and concentrated under a vacuum. The residue, with water (120 ml), potassium hydroxide (29.9 g), and ethanol (250 ml) added thereto, was refluxed with stirring for 2 hours. The reaction mixture, with water added thereto, was neutralized with hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with 10% hydrochloric acid and water successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethanol to yield 71.5 g of the aimed compound.

reactant | Ethyl 4-hydroxybenzoate | 50.0 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | methallyl chloride | 32.6 g | C(C(C)=C)Cl | C4H7Cl
reactant | potassium carbonate | 45.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | 73.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 60.6 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylaniline | 80 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | ethanol | 580 ml | C(C)O | C2H6O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
catalyst | palladium-charcoal | 6.0 g | [Pd] | Pd
solvent | water | O | H2O
product | 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid | 71.5 g | FC1=CC=C(COC2=C(C=C(C(=O)O)C=C2)CC(C)C)C=C1 | C18H19FO3
